US07893056B2
[(2R)-3-(2-{6-[[(2-Amino-1,3-thiazol-4-yl)methyl](methyl)amino]-2-chloro-5-fluoro-4-pyrimidinyl}hydrazino)-2-(cyclopentylmethyl)-3-oxopropyl](tetrahydro-2H-pyran-2-yloxy)formamide
6-[[(2-Amino-1,3-thiazol-4-yl)methyl](methyl)amino]-2-chloro-5-fluoro-4(1H)-pyrimidinone hydrazone trihydrochloride (150 mg, 0.29 mmol), (2R)-3-cyclopentyl-2-{[formyl(tetrahydro-2H-pyran-2-yloxy)amino]methyl}propanoic acid (120 mg, 0.4 mmol), and HOAt (59 mg, 0.43 mmol) were dissolved in 10 mL of DMF. NMM (0.2 mL, 1.8 mmol) was added, followed by EDC (85 mg, 0.43 mmol). After stirring overnight at room temperature, the reaction mixture was purified by RP-HPLC [(2R)-3-(2-{6-[[(2-amino-1,3-thiazol-4-yl)methyl](methyl)amino]-2-chloro-5-fluoro-4-pyrimidinyl}hydrazino)-2-(cyclopentylmethyl)-3-oxopropyl](tetrahydro-2H-pyran-2-yloxy)formamide (110 mg, 52%). LCMS: (M+H)+: 585.2.

reactant | 6-[[(2-Amino-1,3-thiazol-4-yl)methyl](methyl)amino]-2-chloro-5-fluoro-4(1H)-pyrimidinone hydrazone trihydrochloride | 0.29 mmol, 150 mg | Cl.Cl.Cl.NC=1SC=C(N1)CN(C1=C(C(N=C(N1)Cl)=NN)F)C
reactant | (2R)-3-cyclopentyl-2-{[formyl(tetrahydro-2H-pyran-2-yloxy)amino]methyl}propanoic acid | 0.4 mmol, 120 mg | C1(CCCC1)C[C@@H](C(=O)O)CN(OC1OCCCC1)C=O | C15H25NO5
reactant | HOAt | 0.43 mmol, 59 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | NMM | 1.8 mmol, 0.2 mL | CN1CCOCC1 | C5H11NO
reactant | EDC | 0.43 mmol, 85 mg
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | [(2R)-3-(2-{6-[[(2-Amino-1,3-thiazol-4-yl)methyl](methyl)amino]-2-chloro-5-fluoro-4-pyrimidinyl}hydrazino)-2-(cyclopentylmethyl)-3-oxopropyl](tetrahydro-2H-pyran-2-yloxy)formamide | NC=1SC=C(N1)CN(C1=C(C(=NC(=N1)Cl)NNC([C@@H](CN(C=O)OC1OCCCC1)CC1CCCC1)=O)F)C | C24H34ClFN8O4S
